US05672597
(a) N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2-[2-(ethoxycarbonylamino)ethylsulfinyl]acetamide
There was dissolved 1.64 g (0.0074 mol) of 2-[2-(ethoxycarbonylamino)ethylsulfinyl]acetic acid in 80 ml of 50% dimethylformamide-dichloromethane and added 1.13 g (0.0074 mol) of HOBt and 1.52 g (0.0074 mol) of DCC under cooling with ice, and the mixture was stirred for 30 minutes under cooling with ice. Thereto was added 1.91 g (0.0074 mol) of 4-[3-(piperidinomethyl)-phenoxy]-cis-2-butenylamine and the mixture was stirred for 18 hours at room temperature. The obtained precipitate was filtrated off, and the filtrate was washed with 5% aqueous solution of sodium hydroxide and with water successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform:methanol=10:1). Then the obtained crystals were recrystallized from ethyl acetate-n-hexane (1:1) to give 1.3 g of the titled compound.

reactant | 2-[2-(ethoxycarbonylamino)ethylsulfinyl]acetic acid | 0.0074 mol, 1.64 g | C(C)OC(=O)NCCS(=O)CC(=O)O | C7H13NO5S
reactant | HOBt | 0.0074 mol, 1.13 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.0074 mol, 1.52 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-[3-(piperidinomethyl)-phenoxy]-cis-2-butenylamine | 0.0074 mol, 1.91 g | N1(CCCCC1)CC=1C=C(OC\C=C/CN)C=CC1 | C16H24N2O
solvent | dimethylformamide dichloromethane | 80 ml | CN(C=O)C.ClCCl
product | N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2-[2-(ethoxycarbonylamino)ethylsulfinyl]acetamide | 1.3 g | N1(CCCCC1)CC=1C=C(OC\C=C/CNC(CS(=O)CCNC(=O)OCC)=O)C=CC1 | C23H35N3O5S
